US05446189
A mixture of N-[2-oxo-2-(phenylmethoxy)ethyl]-N-[3,4-bis(tetradecyloxy)phenyl]glycine phenylmethyl ester and 0.5 g of 10% palladium on carbon in 40 ml of THF and 20 ml of ethyl acetate was stirred in a hydrogen atmosphere at room temperature for 2.5 hours when uptake ceased. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was triturated with hexane and filtered to give 1.4 g (56% yield, mp 89°-93°) of pure N-(carboxymethyl)-N-[3,4-bis(tetradecyloxy)phenyl]glycine.

reactant | N-[2-oxo-2-(phenylmethoxy)ethyl]-N-[3,4-bis(tetradecyloxy)phenyl]glycine phenylmethyl ester | C1(=CC=CC=C1)COC(CN(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)CC(OCC1=CC=CC=C1)=O)=O | C52H79NO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-(carboxymethyl)-N-[3,4-bis(tetradecyloxy)phenyl]glycine | 1.4 g, 56% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC | C38H67NO6
